US08242116B2
3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyrazol-1-yl]propan-1-ol
The title compound was prepared from pyrazole-4-boronic acid pinacol ester and 3-chloro-1-propanol according to Method AC (heating to 90° C. for 6 days before addition of further 3-chloro-1-propanol and triethylamine, and heating to 90° C. for a further 3 days) and was isolated as a brown gum (quantitative). LCMS (ES+) 253 (M+H)+, RT 2.53 minutes (Method 1).

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 3-chloro-1-propanol | ClCCCO | C3H7ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyrazol-1-yl]propan-1-ol | CC1(OB(OC1(C)C)C=1C=NN(C1)CCCO)C | C12H21BN2O3
